US06040448
A solution of 0.7 g of 2-hydroxy-5,6,7,8-tetrahydroquinoline (prepared according to the methods outlined by Meyers et al., J. Org. Chem., 29: 1435-1438, 1964) and 0.1 g of diethylaniline in 7 mL of phosphorus oxychloride is refluxed for 2 h, cooled and concentrated. The residue taken is up in chloroform, washed with excess 3 N NaOH solution and the organic layer dried and concentrated to provide crude 2-chloro-5,6,7,8-tetrahydro-quinoline (0.45 g) as an oil.

reactant | 2-hydroxy-5,6,7,8-tetrahydroquinoline | 0.7 g | OC1=NC=2CCCCC2C=C1 | C9H11NO
reactant | diethylaniline | 0.1 g | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | phosphorus oxychloride | 7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5,6,7,8-tetrahydro-quinoline | 0.45 g | ClC1=NC=2CCCCC2C=C1 | C9H10ClN
